US04709032
In 30 ml of water was dissolved 3.9 g of 1-amidinopiperazine sulfate, and 60 ml of tetrahydrofuran solution containing 4.1 g of 5-isoquinolinesulfonyl chloride and 1N sodium hydroxide was added dropwise under cooling with ice so that the pH of the solution maintain the range from 8 to 8.5. After the dropwise addition, the mixture solution was stirred for one hour. The crystalline residue was discarded, and the pH of the aqueous layer was adjusted to 1 with an aqueous diluted hydrochloric acid solution. The crystalline residue was discarded, and the pH of the aqueous layer was adjusted to 13 with a 5N aqueous sodium hydroxide solution. The crystals precipitated were separated by filtration, and the crystalline residue obtained was dissolved with an aqueous diluted hydrochloric acid solution. The pH of the solution was adjusted to 13.5 with a 2N aqueous sodium hydroxide solution. The crystals precipitated were separated by filtration, the crystalline residue was washed with water, methanol and ethylether and condensed to dryness to give 4.84 g of 4-amidino-1-(5-isoquinolinesulfonyl)piperazine, i.e., Compound (44) in a yield of 84%.

reactant | 1-amidinopiperazine sulfate | 3.9 g | S(=O)(=O)(O)O.C(N)(=N)N1CCNCC1
reactant | 5-isoquinolinesulfonyl chloride | 4.1 g | C1=NC=CC=2C(=CC=CC12)S(=O)(=O)Cl | C9H6ClNO2S
reactant | sodium hydroxide | 1N | [OH-].[Na+]
reactant | hydrochloric acid | Cl | ClH
reactant | sodium hydroxide | 5N | [OH-].[Na+]
reactant | sodium hydroxide | 2N | [OH-].[Na+]
solvent | water | 30 ml | O | H2O
solvent | tetrahydrofuran | 60 ml | O1CCCC1 | C4H8O
product | 4-amidino-1-(5-isoquinolinesulfonyl)piperazine | 4.84 g, yield of 84% | C(N)(=N)N1CCN(CC1)S(=O)(=O)C=1C=2C=CN=CC2C=CC1 | C14H17N5O2S
